US06521666B1
N-(2,6-Dichlorobenzoyl)-4-(2-formylphenyl)-L-phenylalanine methyl ester (51.7 mg) and (triphenylphosphoranylidene)acetic acid methyl ester (75.8 mg) were dissolved in anhydrous toluene (1 mL) and stirred at 80° C. under N2 for 18 h. The mixture was allowed to cool and purified by preparative TLC (silica gel) using hexanes/EtOAc (2:1) as eluent to give N-(2,6-dichlorobenzoyl)-4-[2-[2-(methoxycarbonyl)ethenyl]phenyl]-L-phenylalanine methyl ester (48.0 mg). ESMS: m/z 512 (MH+).

reactant | N-(2,6-Dichlorobenzoyl)-4-(2-formylphenyl)-L-phenylalanine methyl ester | 51.7 mg | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C=O)=O | C24H19Cl2NO4
reactant | (triphenylphosphoranylidene)acetic acid methyl ester | 75.8 mg | COC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H19O2P
reactant | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | N-(2,6-dichlorobenzoyl)-4-[2-[2-(methoxycarbonyl)ethenyl]phenyl]-L-phenylalanine methyl ester | 48.0 mg | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C=CC(=O)OC)=O | C27H23Cl2NO5
